US04548944
N-Methyl-N'-[3-(2-guanidino-4-thiazolyl)-phenyl]-formamidine
4 gm of N-cyano-N'-[3-(2-guanidino-4-thiazolyl)-phenyl]-formamidine were added all at once to 40 ml of 35% methylamine in water (40 ml). A few minutes later, the reaction product separated out of the solution. This solid was filtered, washed with water and dried, yielding 2.66 gm of the title compound.

reactant | N-cyano-N'-[3-(2-guanidino-4-thiazolyl)-phenyl]-formamidine | 4 gm | C(#N)NC=NC1=CC(=CC=C1)C=1N=C(SC1)NC(=N)N | C12H11N7S
reactant | methylamine | 40 ml | CN | CH5N
solvent | water | 40 ml | O | H2O
product | N-Methyl-N'-[3-(2-guanidino-4-thiazolyl)-phenyl]-formamidine | 2.66 gm | CNC=NC1=CC(=CC=C1)C=1N=C(SC1)NC(=N)N | C12H14N6S
